US07279481B2
2,4-Dimethyl-N-(3-{1-methyl-2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-1,3-thiazole-5-carboxamide (E120)
The title compound was prepared in 87% yield according to the general procedure for the preparation of amides (Method C) starting from 3-{1-methyl-2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}aniline (D21) and 2,4-dimethyl-1,3-thiazole-5-carboxylic acid.

reactant | 3-{1-methyl-2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}aniline | CC(CN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C)C=1C=C(N)C=CC1 | C23H28N4
reactant | 2,4-dimethyl-1,3-thiazole-5-carboxylic acid | CC=1SC(=C(N1)C)C(=O)O | C6H7NO2S
product | 2,4-Dimethyl-N-(3-{1-methyl-2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-1,3-thiazole-5-carboxamide | 87% yield | CC=1SC(=C(N1)C)C(=O)NC1=CC(=CC=C1)C(CN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C)C | C29H33N5OS
